US09422331B2
A rt suspension of tert-butyl(S)-1-((2S,3S)-1-acetyl-2-methyl-5-((2-methylnaphthalen-1-yl)methyl)-4-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylamino)-1-oxopropan-2-yl(methyl)carbamate (73.1 mg, 128 μmol) in 4 M HCl in dioxane (638 μl) was stirred for 2 h. The reaction was diluted with Et2O and the solids were collected by vacuum filtration, taken up in MeCN—H2O, and lyophilized to provide (S)-N-((2S,3S)-1-acetyl-2-methyl-5-((2-methylnaphthalen-1-yl)methyl)-4-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-yl)-2-(methylamino)propanamide hydrochloride (54.3 mg, 84%) as a white solid. MS m/z 473 (MH)+.

reactant | tert-butyl(S)-1-((2S,3S)-1-acetyl-2-methyl-5-((2-methylnaphthalen-1-yl)methyl)-4-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylamino)-1-oxopropan-2-yl(methyl)carbamate | 128 μmol, 73.1 mg | C(C)(=O)N1C2=C(N(C([C@H]([C@@H]1C)NC([C@H](C)N(C(OC(C)(C)C)=O)C)=O)=O)CC1=C(C=CC3=CC=CC=C13)C)C=CC=C2 | C33H40N4O5
reactant | HCl | 4 M | Cl | ClH
solvent | dioxane | 638 μl | O1CCOCC1 | C4H8O2
solvent | Et2O | CCOCC | C4H10O
product | (S)-N-((2S,3S)-1-acetyl-2-methyl-5-((2-methylnaphthalen-1-yl)methyl)-4-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-yl)-2-(methylamino)propanamide hydrochloride | 54.3 mg, 84% | Cl.C(C)(=O)N1C2=C(N(C([C@H]([C@@H]1C)NC([C@H](C)NC)=O)=O)CC1=C(C=CC3=CC=CC=C13)C)C=CC=C2 | InChI=1S/C28H32N4O3.ClH/c1-17-14-15-21-10-6-7-11-22(21)23(17)16-31-24-12-8-9-13-25(24)32(20(4)33)19(3)26(28(31)35)30-27(34)18(2)29-5;/h6-15,18-19,26,29H,16H2,1-5H3,(H,30,34);1H/t18-,19-,26-;/m0./s1
